US07655643B2
Methyl 3-bromo-5-formylbenzoate
6.2 g (27.1 mmol) of 3-bromo-5-formylbenzoic acid (J. Org. Chem., 2002, 67, 3548-3554) are dissolved in 110 ml of acetonitrile under argon. 330 mg (2.7 mmol) of 4-dimethylaminopyridine and 1.73 ml (54.2 mmol) of methanol are added thereto. The mixture is cooled to −10° C., and 6.23 g (32.5 mmol) of EDC are added. The mixture is slowly allowed to reach RT and is then stirred for 20 h. The solvent is then evaporated in vacuo, and the residue is purified by chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate (6:1)).

reactant | 3-bromo-5-formylbenzoic acid | 27.1 mmol, 6.2 g | BrC=1C=C(C(=O)O)C=C(C1)C=O | C8H5BrO3
reactant | methanol | 54.2 mmol, 1.73 ml | CO | CH4O
reactant | EDC | 32.5 mmol, 6.23 g
solvent | acetonitrile | 110 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 2.7 mmol, 330 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 3-bromo-5-formylbenzoate | BrC=1C=C(C(=O)OC)C=C(C1)C=O | C9H7BrO3
